US05939546
Preparation of 1-Trimethylsilyl-4-methylimidazole
Into a 100 mL 3 neck round bottom flask fitted with a dropping funnel, nitrogen inlet tube, and gas exit tube was loaded 4-methylimidazole, 6.51 g (79.3 mmol) and 75 mL anhydrous CH3CN. To this yellow solution was added in five minutes hexamethyldisilazane, 9.83 g (60.9 mmol), under nitrogen and with stirring. The resulting solution was then refluxed for 18 hours under nitrogen. After the specified time, the flask and contents were cooled slightly, the flask was fitted with a fractional distillation head, and then heating continued. The first liquid fraction was collected at 80° C. at ambient pressure. When the last amount of the first liquid fraction had been collected, the system was put under 0.2 Torr vacuum and heating was continued. The second liquid fraction was collected at 150° C. (0.2 Torr). Analysis of this fraction was consistent with the desired product and weighed 9.76 g (80%).

reactant | 4-methylimidazole | CC=1N=CNC1 | C4H6N2
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
solvent | CH3CN | 75 mL | CC#N | C2H3N
product | 1-Trimethylsilyl-4-methylimidazole | C[Si](N1C=NC(=C1)C)(C)C | C7H14N2Si
